US09233922B2
Production of 1,4-bis(N-carbazolyl)benzene (pCP, Structural Formula (21))
The reaction was conducted for 10 minutes in the same experimental procedures as in Example 16 except for using 1,4-dichlorobenzene (4.6 g, 31.6 mmol, 1.0 equivalent) as an aryl halide. To the reaction mixture was added an aqueous solution of ammonium chloride, and the mixture was poured into chloroform (800 mL). The aqueous layer was separated off, and the organic layer was passed through a silica gel pad and concentrated to remove the excess chloroform under reduced pressure. To the thus-obtained suspension was added methanol (130 mL), and the crystal was collected from the suspension by suction filtration, washed with methanol and dried under reduced pressure to afford 12.6 g of pCP as a white powder.

reactant | 1,4-dichlorobenzene | 31.6 mmol, 4.6 g, 1.0 equivalent | ClC1=CC=C(C=C1)Cl | C6H4Cl2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | chloroform | 800 mL | C(Cl)(Cl)Cl | CHCl3
product | 1,4-bis(N-carbazolyl)benzene | C1=CC=CC=2C3=CC=CC=C3N(C12)C1=CC=C(C=C1)N1C2=CC=CC=C2C=2C=CC=CC12 | C30H20N2
